US04322346
6.05 g of selenium dioxide are added within 1.5 hours to a stirred suspension of 19.1 g (0.05 mole) of 1-(3,4-dimethoxyphenyl)-4-methyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine in 150 ml of 80% aqueous dioxane at an inner temperature of 84° to 87° C. The metallic selenium is removed from the mixture by clarification, and the yellow solution is evaporated in vacuo. The thick, honey-like residue is stirred with 100 ml of water, whereupon the title compound separates as a yellow powder. The product is filtered off, washed five times with 10 ml of water each and dried in vacuo. 19.3 g (96%) of crude 1-(3,4-dimethoxyphenyl)-4-formyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine are obtained; m.p.: 103°-105° C. When recrystallized from acetone and cyclohexane the product melts at 108°-110° C. C22H24N2O5 =396.45.

reactant | selenium dioxide | 6.05 g | [Se](=O)=O | O2Se
reactant | 1-(3,4-dimethoxyphenyl)-4-methyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine | 0.05 mole, 19.1 g | COC=1C=C(C=CC1OC)C1=NN=C(C(C2=C1C=C(C(=C2)OC)OC)CC)C | C22H26N2O4
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 1-(3,4-dimethoxyphenyl)-4-formyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine | 19.3 g, 96% | COC=1C=C(C=CC1OC)C1=NN=C(C(C2=C1C=C(C(=C2)OC)OC)CC)C=O | C22H24N2O5
